US07875745B2
3,4,5-Trimethoxybenzoic acid was allowed to react with oxalyl chloride, and the resulting acid chloride was allowed to react with N,O-dimethylhydroxyamine hydrochloride to obtain N,3,4,5-tetramethoxy-N-methylbenzamide. The resulting compound was allowed to react with 4-phenylbutylmagnesium chloride to obtain 5-phenyl-1-(3,4,5-trimethoxyphenyl)pentan-1-one. The resulting compound was allowed to react with lithium diisopropylamine and methyl2-[4-(bromomethyl)phenoxy]benzoate in the presence of N,N,N′,N″,N″-pentamethyldiethylenetriamine to obtain methyl2-{4-[5-phenyl-2-(3,4,5-trimethoxybenzoyl)pentyl]phenoxy}benzoate. The resulting compound was hydrolyzed with sodium hydroxide to give the title compound having the following physical properties.

reactant | 3,4,5-Trimethoxybenzoic acid | COC=1C=C(C(=O)O)C=C(C1OC)OC | C10H12O5
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,O-dimethylhydroxyamine hydrochloride | Cl.CNOC
product | N,3,4,5-tetramethoxy-N-methylbenzamide | CON(C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C | C12H17NO5
